### PR TITLE
Rezk Completion For Topoi

### PR DESCRIPTION
**Pull request by KobeWullaert**
This PR contains material about the Rezk completion.
More precisely, it is proven that the universal arrows/left adjoint given by the Rezk completion lifts to 
(a) pretopoi
(b) elementary topoi
(c) finite colimits

The material for result (b) was already in UniMath, with the exception of the definition of the bicategory of elementary topoi.
Result (c) was also already in UniMath, with the exceptions of the statement "if F : C -> D a weak equivalence, and C is closed under colimits of a diagram, then D is also closed under that diagram" and the bicategorical statement.
Results (a) and (b) have been extended to include natural numbers objects.
To prove result (a), the Rezk completion for extensive categories remained to be done.

Edit: The material about extensiveness and pretopoi has now been removed.

### CODE REVIEW

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Exponentials.v [hunk 1]
```diff
@@ -50,3 +59,25 @@ Section CategoriesWithExponentials.
...
+    - exact (λ C, Exponentials (pr1 (pr122 C))).
+    - exact (λ _ _ E₁ E₂ F, preserves_exponentials E₁ E₂ (pr21 (pr22 F))).
+    - exact (λ C _, id_preserves_exponentials _).
+    - exact (λ _ _ _ _ _ _ _ _ HF HG, comp_preserves_exponentials HF HG).
+  Defined.
+
+  Lemma disp_2cells_iscontr_exponentials_over_lim
+    : disp_2cells_iscontr disp_bicat_exponentials_over_lim.
+  Proof.
+    apply disp_2cells_of_sigma_iscontr.
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Exponentials.v]: This would be `apply disp_2cells_iscontr_subbicat`.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Extensive.v [hunk 2]
```diff
@@ -0,0 +1,45 @@
+(*
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Extensive.v]:
```suggestion
(**
```

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Extensive.v [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+  In this file, we define the bicategory of extensive categories and binary coproduct-preserving functors.
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Extensive.v]: Are initial objects preserved as well?

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/FiniteColimits.v [hunk 4]
```diff
@@ -0,0 +1,109 @@
+(*
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/FiniteColimits.v]:
```suggestion
(**
```

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v [hunk 5]
```diff
@@ -0,0 +1,166 @@
+(*
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v]:
```suggestion
(**
```

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Extensive.v [hunk 6]
```diff
@@ -0,0 +1,45 @@
...
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.FullSub.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.Sigma.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.CategoriesWithStructure.FiniteColimits.
+
+Local Open Scope cat.
+
+Section ExtensiveCategories.
+
+  Definition disp_bicat_extensive_cats'
+    : disp_bicat (total_bicat disp_bicat_bincoproducts).
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Extensive.v]: This definition is not correct.

https://ncatlab.org/nlab/show/extensive+category#Definition

In an extensive category, all finite coproducts are required to exist. However, here you only assume the existence of binary coproducts, which is not sufficient to guarantee that the initial object exists. You thus also need to include the initial object.

In addition, enough pullbacks need to exist.

Screenshot 2025-07-13 at 13 14 36

Screenshot 2025-07-13 at 13 14 54

So, I would propose to add finite limits and an initial object as well.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+End ElementaryTopoi.
+
+(** * 3. Arithmetic Topoi *)
+Section ArithmeticTopoi.
+
+  Definition disp_bicat_arithmetic_elementarytopoi'
+    : disp_bicat (total_bicat disp_bicat_elementarytopoi).
+  Proof.
+    use disp_subbicat.
+    - intros [C [[[T ?] [[P ?] ?]] ?]].
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v:78]: It would be better to use accessors here. That gives better behavior in general regarding unfolding.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v [hunk 8]
```diff
@@ -0,0 +1,166 @@
...
+      exact (parameterized_NNO T P).
+    - simpl.
+      intros C₁ C₂ N₁ N₂ [F [[[? pt] ?] ?]].
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v:81]: It would be better to use accessors here. That gives better behavior in general regarding unfolding.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v [hunk 9]
```diff
@@ -0,0 +1,166 @@
...
+  Proof.
+    exact (sigma_bicat _ _ disp_bicat_arithmetic_elementarytopoi').
+  Defined.
+
+  Definition disp_bicat_arithmetic_pretopoi'
+    : disp_bicat (total_bicat disp_bicat_pretopoi).
+  Proof.
+    use disp_subbicat.
+    - simpl.
+      intros [C [[[[[T ?] [[P ?] ?]] ?] ?] ?]].
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v]: It would be better to use accessors here. That gives better behavior in general regarding unfolding.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v [hunk 10]
```diff
@@ -0,0 +1,166 @@
...
+      exact (parameterized_NNO T P).
+    - simpl.
+      intros C₁ C₂ N₁ N₂ [F [[[[[? pt] ?] ?] ?] ?]].
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/Topoi.v]: It would be better to use accessors here. That gives better behavior in general regarding unfolding.

File: UniMath/Bicategories/RezkCompletions/StructuredCats/Extensive.v [hunk 11]
```diff
@@ -0,0 +1,66 @@
+(*
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/Extensive.v]:
```suggestion
(**
```

File: UniMath/Bicategories/RezkCompletions/StructuredCats/FiniteColimits.v [hunk 12]
```diff
@@ -0,0 +1,129 @@
+(*
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/FiniteColimits.v]:
```suggestion
(**
```

File: UniMath/CategoryTheory/DisplayedCats/Codomain/CodExtensivity.v [hunk 13]
```diff
@@ -0,0 +1,292 @@
+(*
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Codomain/CodExtensivity.v]:
```suggestion
(**
```

File: UniMath/CategoryTheory/DisplayedCats/Codomain/FiberCod.v [hunk 14]
```diff
@@ -532,3 +533,42 @@ Section CodomainFiber.
...
+Section IsoInSlice.
+
+  Context {C : category} (z : C) (a b : C / z).
+
+  Lemma make_is_z_iso_in_slice {f : C/z⟦a, b⟧}
+    (i : is_z_isomorphism (dom_mor f))
+    : is_z_isomorphism f.
+  Proof.
+    use make_is_z_isomorphism.
+    - use tpair.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Codomain/FiberCod.v:547]: Use abstract in this abstract

File: UniMath/CategoryTheory/DisplayedCats/Codomain/CodLeftAdjoint.v [hunk 15]
```diff
@@ -531,3 +533,31 @@ Proof.
   - exact (λ x y f, is_right_adjoint_cod_fiber_functor HC f).
   - exact (λ w x y z f g h k p H, cod_left_beck_chevalley HC f g h k p H).
 Defined.
+
+(** * 8. The left adjoint is an isomorphism *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Codomain/CodLeftAdjoint.v]:
```suggestion
(** * 8. The left adjoint is an adjoint equivalence *)
```

File: UniMath/CategoryTheory/DisplayedCats/Codomain/CodExtensivity.v [hunk 16]
```diff
@@ -0,0 +1,292 @@
...
+  Extensive Categories
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Codomain/CodExtensivity.v]: There actually already is something in UniMath regarding extensiveness:
- https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/ComprehensionCat/LocalProperty/Examples.v#L462
- https://github.com/UniMath/UniMath/blob/5941f44e3c13d2ac385f5a8b9b486c0088dd3f46/UniMath/CategoryTheory/Limits/DisjointBinCoproducts.v#L98

In addition, other material also already occurs in UniMath, namely the extensiveness of the slice category: https://github.com/UniMath/UniMath/blob/5941f44e3c13d2ac385f5a8b9b486c0088dd3f46/UniMath/CategoryTheory/DisplayedCats/Codomain/ColimitProperties.v#L66

It would be better if this material gets reused.

File: UniMath/CategoryTheory/WeakEquivalences/TwoOutOfThree.v [hunk 17]
```diff
@@ -0,0 +1,107 @@
+(*
+  A (partial) 2-out-of-3 law for weak equivalences
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/TwoOutOfThree.v:2]: Why not say 'The composition of weak equivalences is a weak equivalence'?

Comment (KobeWullaert) [reply UniMath/CategoryTheory/WeakEquivalences/TwoOutOfThree.v:2]: Because that is not what is proven.

**Comment by nmvdw** [comment]
While there are some improvements that still can be made, I will merge this PR after the CI completed successfully
